US07060827B2
In like manner to the preparation of N2,N4-bis-(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-isopropylaniline were reacted to give N2,N4-bis-(3-isopropylphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 29.58 min.; Purity: 98%; MS (m/e): 365 (MH+); 1H NMR (DMSO-d6): δ 10.5 (1H, s), 10.34 (1H, s), 8.41 (1H, d, J=5.1 Hz), 7.62 (1H, d, J=8.1 Hz), 7.53 (1H, s), 7.43 (1H, d, J=8.1 Hz), 7.37 (2H, m), 7.29 (1H, t, J=8.1 Hz), 7.19 (1H, d, J=7.8 Hz), 7.08 (1H, d, J=7.8 Hz), 2.88 (2H, m), 1.25 (6H, d, J=7.2 Hz), 1.201 (6H, d, J=7.2 Hz).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-isopropylaniline | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
product | N2,N4-bis-(3-isopropylphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)(C)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C(C)C)F | C22H25FN4
